### PR TITLE
[Merged by Bors] - feat: depend on std4

### PR DESCRIPTION
**Pull request by gebner**

### CODE REVIEW

**Comment by digama0** [comment]
Note: `Init.Data.Nat.Lemmas` and `Data.Nat.Gcd` were not completely moved to Std (some theorems were removed), so you probably want to keep the files containing only the lemmas that were removed. (My plan was to use the redeclaration error to find them.)

File: Mathlib/Data/Array/Defs.lean [hunk 1]
```diff
@@ -4,6 +4,8 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Arthur Paulino, Floris van Doorn
 -/
 
+import Std
```
Comment (digama0) [inline Mathlib/Data/Array/Defs.lean:7]: We're going to want to avoid `import Std` in mathlib for the same reason that  `import Mathlib` is a bad idea. It won't be a problem for a while, but mathlib files at least should stick to precise imports.

File: test/norm_num.lean [hunk 2]
```diff
@@ -200,7 +200,7 @@ end
 -- #norm_num 1 = 1
 example : 1 = 1 := by norm_num
 -- #norm_num 2^4-1 ∣ 2^16-1
-example : 2^4-1 ∣ 2^16-1 := by norm_num
+-- example : 2^4-1 ∣ 2^16-1 := by norm_num
```
Comment (gebner) [inline test/norm_num.lean:203]: This used to work because of the flaky `by decide` feature that is built into simp.

File: Mathlib/Data/Array/Defs.lean (hunk 1 above)
Comment (gebner) [reply Mathlib/Data/Array/Defs.lean:7]: For the moment it is intentional so that we avoid duplicate definitions in mathlib and std.

**Comment by gebner** [comment]
bors merge

**Comment by gebner** [comment]
bors merge
